US08633186B2
2-Amino-6-(thiophen-3-yl)benzonitrile
Prepared as in Example 129c from thiophen-3-ylboronic acid and 2-amino-6-bromobenzonitrile in 94% yield as a beige solid. 1H NMR (400 MHz, DMSO-d6) δ 6.08 (br s, 2H), 6.70 (dd, J=1.2, 7.6 Hz, 1H), 6.77 (dd, J=1.2, 8.4 Hz, 1H), 7.31 (dd, J=7.6, 8.4 Hz, 1H), 7.38 (dd, J=1.2, 4.8 Hz, 1H), 7.66 (dd, J=2.8, 4.8 Hz, 1H), 7.78 (dd, J=1.2, 2.8 Hz, 1H).

reactant | thiophen-3-ylboronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 2-amino-6-bromobenzonitrile | NC1=C(C#N)C(=CC=C1)Br | C7H5BrN2
product | 2-Amino-6-(thiophen-3-yl)benzonitrile | 94% yield | NC1=C(C#N)C(=CC=C1)C1=CSC=C1 | C11H8N2S
